Name:  ___                Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: SURGERY
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
Post-operative ileus
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
___ s/p open repair of a 4cm umbilical hernia defect on ___ who 
now presents with nausea and vomiting. Her procedure went 
without complications and the defect was closed using an 8-cm 
ventralex mesh underlay. She reports that since she went home on 
___, she felt nauseated after having some chicken soup. Since 
then, she has had nausea and vomiting every day. She has had 6 
episodes of vomiting and has not been able to tolerate food. She 
has not been taking any pain meds since ___ because she is 
afraid of the nausea it might cause. She has not passed flatus 
or had a bowel movement since.  
 
Past Medical History:
PMH: 
asthma

PSH: 
___ open umbilical hernia repair 

 
Social History:
___
Family History:
Noncontributory
 
Physical Exam:
ADMISSION PHYSICAL EXAM:
VS: Temp 96.2 HR 105 BP 131/84 RR 20 O2 98% RA 
GEN: AAOx3, uncomfortable in bed
HEART: RRR
LUNGS: CTA b/l
ABD: Abdomen soft, non distended, tender to palpation in the RLQ 
and LLQ. Incision c/d/I, steri-strips in place. 
Extremities: no cyanosis or edema

DISCHARGE PHYSICAL EXAM:
VS: Temp 98.7 HR 84 BP 114/63 RR 20 O2 99% RA 
GEN: AAOx3, appears comfortable
HEART: RRR
LUNGS: CTA b/l
ABD: Abdomen soft, non distended, appropriately incisionally 
tender
INCISION: c/d/i, sterri-strips in place. 
EXT: no cyanosis or edema

 
Pertinent Results:
___ 03:20PM URINE  HOURS-RANDOM
___ 03:20PM URINE  UCG-NEGATIVE
___ 03:20PM URINE  COLOR-Yellow APPEAR-Clear SP ___
___ 03:20PM URINE  BLOOD-NEG NITRITE-NEG PROTEIN-100 
GLUCOSE-NEG KETONE-150 BILIRUBIN-NEG UROBILNGN-NEG PH-6.5 
LEUK-NEG
___ 03:20PM URINE  RBC-1 WBC-1 BACTERIA-NONE YEAST-NONE 
EPI-2
___ 03:20PM URINE  HYALINE-1*
___ 03:20PM URINE  AMORPH-RARE
___ 03:20PM URINE  MUCOUS-MANY
___ 01:38PM   LACTATE-2.0
___ 01:27PM   GLUCOSE-126* UREA N-12 CREAT-0.7 SODIUM-139 
POTASSIUM-4.2 CHLORIDE-97 TOTAL CO2-21* ANION GAP-25*
___ 01:27PM   estGFR-Using this
___ 01:27PM   ALT(SGPT)-14 AST(SGOT)-19 ALK PHOS-52 TOT 
BILI-0.6
___ 01:27PM   ALBUMIN-5.0 CALCIUM-10.5* PHOSPHATE-3.1 
MAGNESIUM-2.2
___ 01:27PM   WBC-14.5* RBC-5.67* HGB-14.6 HCT-44.8 MCV-79* 
MCH-25.7* MCHC-32.6 RDW-13.8 RDWSD-39.2
___ 01:27PM   NEUTS-75.5* LYMPHS-16.7* MONOS-7.0 EOS-0.0* 
BASOS-0.3 IM ___ AbsNeut-10.97* AbsLymp-2.43 AbsMono-1.01* 
AbsEos-0.00* AbsBaso-0.04
___ 01:27PM   PLT COUNT-315
___ 01:27PM   ___ PTT-27.2 ___
 
Brief Hospital Course:
Patient was admitted to the hospital on ___ with nausea, 
vomiting post-operatively, concerning for ileus. She did well 
with bowel rest and IV fluids. Abdominal CT was obtained and 
showed dilated loops of bowel without any clear transition 
point. Serial KUB exams showed passage of oral contrast from the 
small bowel into the colon, suggesting adequate return of bowel 
function. 

Patient was discharged home on ___. At the time of 
discharge, patient was having bowel function and was able to 
tolerate a regular diet. Her pain was well controlled with oral 
medications. She will follow up with Dr. ___ in clinic in 1 
week.
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. OxyCODONE (Immediate Release) 5 mg PO Q4H:PRN Pain 

 
Discharge Medications:
1. Acetaminophen 1000 mg PO Q6H 
2. Polyethylene Glycol 17 g PO DAILY 
Drink plenty of fluids while taking this medication. Stop if ___ 
develop diarrhea. 
RX *polyethylene glycol 3350 [ClearLax] 17 gram/dose 17 gms by 
mouth twice a day Refills:*0
3. Ondansetron 8 mg PO Q8H:PRN nausea  
Take 1 pill up to every 8 hours as needed for nausea 
RX *ondansetron 8 mg 1 tablet(s) by mouth three times a day Disp 
#*30 Tablet Refills:*0
4. Senna 8.6 mg PO BID:PRN constipation 
Take twice a day with plenty of fluids. Stop if loose stools or 
diarrhea develop 
RX *sennosides [Evac-U-Gen (sennosides)] 8.6 mg 1 tab by mouth 
twice a day Disp #*60 Tablet Refills:*0
5. OxyCODONE (Immediate Release) 5 mg PO Q4H:PRN Pain 

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Post-operative ileus

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Mrs. ___, 

___ were admitted to the hospital for nausea and vomiting, and 
dehydration following recent umbilical hernia repair. Your 
symptoms were likely related to a condition called 
post-operative ileus, a frequent complication after abdominal 
surgery. ___ are now ready to be discharged home to complete 
your recovery.

Please follow these instructions to ensure good recovery.

DIET: ___ may resume regular diet as before. Drink plenty of 
fluids. 

MEDICATIONS: ___ may resume all your home medications

ACTIVITY: ___ may resume regular activity, but avoid heavy 
lifting for ___ weeks after surgery. ___ may shower, walk, 
drive, and exercise as long as ___ are not doing any heavy 
lifting.

PAIN CONTROL: ___ may continue taking narcotic pain medication 
called oxycodone as before. In addition, we recommend taking 
Tylenol up to 1 gm every 6 hours, but do not exceed 4 gms in 24 
hour period. ___ may place ice on your incision for comfort. 

INCISION CARE: ___ may shower, but do not rub your incision or 
place any creams or lotions on it. ___ may cover it up with 
clean dry dressing to protect your clothing or leave it open to 
air. 

FOLLOW-UP: please make sure ___ make an appointment with Dr. 
___ to follow-up in 1 week after your discharge from the 
hospital.

Thank ___ for letting us participate in your care.

Good luck!
 
Followup Instructions:
___